US09126931B2
7-((R)-2,2-Dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Under nitrogen atmosphere, 7-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound W3, 15 mg, 0.05 mmol) and triphenylphosphine (40 mg, 3 eq.) were added with THF (1 ml), further added dropwise with ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (20 mg, 3 eq.) and 2.19 N toluene solution of diethyl azodicarboxylate (68 μL, 3 eq.), and the mixture was stirred at 50° C. for 2 hr. After cooling, the reaction solution was added with ethyl acetate, washed with brine, dried over sodium sulfate, and filtered. The residues obtained after concentration under reduced pressure were purified by preparative TLC (ethyl acetate/dichloromethane), and the resulting solid was washed with dichloromethane to obtain the target compound (brown powder, 5 mg).

reactant | 7-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.05 mmol, 15 mg | COC1=CC=CC2=C1C(C=1NC3=CC(=CC=C3C1C2=O)C#N)(C)C | C20H16N2O2
reactant | triphenylphosphine | 40 mg, 3 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 20 mg, 3 eq. | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | diethyl azodicarboxylate | 68 μL, 3 eq. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.19 N | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 7-((R)-2,2-Dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | CC1(OC[C@H](O1)COC1=CC=CC2=C1C(C=1NC3=CC(=CC=C3C1C2=O)C#N)(C)C)C | C25H24N2O4
